US04618704
12,000 parts by volume of oxygen are introduced in the course of 4 hours into a solution, at 95° C., of 63 parts of 1-acetoxy-2-methyl-1,3-butadiene in 600 parts of glacial acetic acid, in which 25 parts of the catalyst prepared as described in Example 1a are suspended. The reaction mixture is worked up as described in Example 1b and fractional distillation gives 71.8 parts of 1,1,4-triacetoxy-2-methyl-2-butene (representing 58.8% conversion) of boiling point 118°-124° C./0.7 mbar and 19.5 parts of 4-acetoxytiglic aldehyde (representing 27.4% conversion) of boiling point 102°-107° C./25-27 mbar.

reactant | oxygen | O=O | O2
reactant | 1-acetoxy-2-methyl-1,3-butadiene | C(C)(=O)OC=C(C=C)C | C7H10O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1,1,4-triacetoxy-2-methyl-2-butene | 58.8% | C(C)(=O)OC(C(=CCOC(C)=O)C)OC(C)=O | C11H16O6
